US09102899B2
p-Tolylacetonitrile (18.5 g, 0.14 mol) is dissolved in a mixture of acetone (50 ml) and methanol (6.7 ml) and KOH (3.33 g, 0.05 mol) is added. The resulting mixture is heated to 65° C. (oilbath) and stirred for 3 h. The volatiles are removed in a rotary evaporator, the residue is dissolved in toluene and washed 3 times with half saturated aq. NaCl-solution. The organic layer is dried over MgSO4, the solvent removed under reduced pressure and the residue distilled over a short-path apparatus at 0.06 mbar. The fraction distilling at 77° C. is collected (11 g) and subjected to a fine distillation over a Widmer-column to yield 3.54 g (15%) of 3-methyl-2-p-tolyl-but-2-ene nitrile as colourless oil (b.p. 90-95° C./0.05 mbar).

reactant | p-Tolylacetonitrile | 0.14 mol, 18.5 g | C1(=CC=C(C=C1)CC#N)C | C9H9N
reactant | KOH | 0.05 mol, 3.33 g | [OH-].[K+]
reactant | acetone | 50 ml | CC(=O)C | C3H6O
solvent | methanol | 6.7 ml | CO | CH4O
product | 3-methyl-2-p-tolyl-but-2-ene nitrile | 3.54 g, 15% | CC(=C(C#N)C1=CC=C(C=C1)C)C | C12H13N
